US04348403
A 1.0 g portion of 4-(4-chlorobenzyloxy)phenacyl chloride, together with 440 mg of 1-acetylthiourea and 279 mg of sodium acetate, was stirred in 15 ml of ethanol under reflux for 2 hours. After cooling, the precipitated crystals were recovered by filtration, thus yielding 800 mg (65.6%) of 2-acetylamino-4-[4-(4-chlorobenzyloxy)phenyl]thiazole. m.p., 239°-240° C.

reactant | 4-(4-chlorobenzyloxy)phenacyl chloride | ClC1=CC=C(COC2=CC=C(C(CCl)=O)C=C2)C=C1 | C15H12Cl2O2
reactant | 1-acetylthiourea | 440 mg | C(C)(=O)NC(=S)N | C3H6N2OS
reactant | sodium acetate | 279 mg | C(C)(=O)[O-].[Na+]
solvent | ethanol | 15 ml | C(C)O | C2H6O
product | 2-acetylamino-4-[4-(4-chlorobenzyloxy)phenyl]thiazole | 800 mg, 65.6% | C(C)(=O)NC=1SC=C(N1)C1=CC=C(C=C1)OCC1=CC=C(C=C1)Cl | C18H15ClN2O2S
